US07595405B2
To a solution of 3-Iodo-5-(2-methoxy-1-methyl-ethylcarbamoyl)-phenyl-ammonium (7.47 g, 22.4 mmol) and NaN3 (2.68 g, 41.2 mmol) in AcOH (100 mL) was added HC(OEt)3 (18.3 mL, 110 mmol) at room temperature. The reaction mixture was brought to reflux for 4 hours, then cooled to room temperature. The solvent was removed in vacuo and the residue was purified by silica-gel chromatography to give 3-Iodo-N-(2-methoxy-1-methyl-ethyl)-5-tetrazol-1-yl-benzamide as a white solid (6.30 g, 72%). MS (M+H)=388.

reactant | 3-Iodo-5-(2-methoxy-1-methyl-ethylcarbamoyl)-phenyl-ammonium | 22.4 mmol, 7.47 g | IC=1C=C(C=C(C1)C(NC(COC)C)=O)[NH3+]
reactant | NaN3 | 41.2 mmol, 2.68 g | [N-]=[N+]=[N-].[Na+]
reactant | HC(OEt)3 | 110 mmol, 18.3 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | AcOH | 100 mL | CC(=O)O | C2H4O2
product | 3-Iodo-N-(2-methoxy-1-methyl-ethyl)-5-tetrazol-1-yl-benzamide | 6.30 g, 72% | IC=1C=C(C(=O)NC(COC)C)C=C(C1)N1N=NN=C1 | C12H14IN5O2
